* C:\Users\idontseeit\Desktop\Justins_Files\electronics\Projects\sudoku\git\FPGA-based-Sudoku\LTspice\LED_driver\ULN2003A_test.asc
Q1 N008 N010 N011 0 NPN
D1 N001 N008 D
D2 N002 N008 D
D3 N003 N008 D
D4 N004 N008 D
D5 N005 N008 D
D6 N006 N008 D
D7 N007 N008 D
R1 Vcc N001 {R}
R2 Vcc N002 {R}
R3 Vcc N003 {R}
R4 Vcc N004 {R}
R5 Vcc N005 {R}
R6 Vcc N006 {R}
R7 Vcc N007 {R}
R8 N009 GPIO_FPGA 2.7k
R9 N010 N009 7.2k
V1 Vcc 0 3.3
V2 GPIO_FPGA 0 3.3
Q2 N008 N009 N010 0 NPN
R10 N011 N010 3k
R11 N011 0 1
.model D D
.lib C:\Users\idontseeit\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\idontseeit\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param R = 220
.tran 100us
.backanno
.end
